US08012976B2
Ethyl 3-(4-fluorophenyl)-3-hydroxy-2-(1-methyl-1H-imidazol-2-yl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate
To a mixture of (E)-4-((1-methyl-1H-imidazol-2-yl)methyleneamino)isobenzofuran-1(3H)-one (590 mg, 2.4 mmol) and 4-fluorobenzaldehyde (300 mg, 2.4 mmol) in ethyl propionate (20 mL) was added a solution of sodium ethoxide in ethanol [sodium (220 mg, 9.6 mmol) in ethanol (10 mL)]. After the addition, the mixture was stirred at room temperature overnight. The mixture was quenched with water (10 mL) and solvent was removed in vacuum. The residue was dissolved in water, and then extracted with ethyl acetate (100 mL×4). The combined organic layers were washed with brine, dried over anhydrous sodium sulfate, and concentrated to give a crude product, which was purified by flash chromatography to give the title compound (100 mg, yield 10%). LC-MS (ESI) m/z: 410 (M+1)+.

reactant | (E)-4-((1-methyl-1H-imidazol-2-yl)methyleneamino)isobenzofuran-1(3H)-one | 2.4 mmol, 590 mg | CN1C(=NC=C1)\C=N\C1=C2COC(C2=CC=C1)=O | C13H11N3O2
reactant | 4-fluorobenzaldehyde | 2.4 mmol, 300 mg | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | ethanol | 9.6 mmol, 10 mL, 220 mg | C(C)O | C2H6O
solvent | ethyl propionate | 20 mL | C(CC)(=O)OCC | C5H10O2
product | Ethyl 3-(4-fluorophenyl)-3-hydroxy-2-(1-methyl-1H-imidazol-2-yl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate | 100 mg, yield 10% | FC1=CC=C(C=C1)C1(C(NC=2C=CC=C(C2C1=O)C(=O)OCC)C=1N(C=CN1)C)O | C22H20FN3O4
